US06750348B1
4-[[(2-pyridinylmethyl)amino]methyl]benzyl alcohol
Terephthaldicarboxaldehyde (40.75 g, 0.304 mol), methanol (250 mL), palladium on activated carbon, (10%, 4.24 g) and 2-(aminomethyl)pyridine (3.1 mL, 0.003 mol, 0.01 mol equiv) were combined in a hydrogenation vessel and the reaction mixture was shaken on a Parr hydrogenator for 3.5 hours at 38 psi of hydrogen. The mixture was filtered through celite and the cake was washed with methanol. The solution was dried over Na2SO4, filtered, then reduced in volume to ˜200 mL under reduced pressure. To this stirred solution is then added a solution of 2-(aminomethyl)pyridine (28 mL, 0.272 mol, 0.9 mol. Equiv.) in methanol (50 mL) over 15 minutes. This was allowed to stir overnight at room temperature. The solution was transferred to a hydrogenation flask and palladium on activated carbon (10%, 2.60 g, 0.06) was added and the flask was shaken on a Parr hydrogenator for 4 hours at 39 psi of hydrogen. The mixture was filtered through celite and the cake was washed with methanol. The filtrates were then evaporated and the crude material was filtered through silica gel (180 g, 9:1 CH2Cl2: CH3OH) to provide the title compound (67.45 g, 93%) as a yellow oil. 1H NMR (CDCl3) δ 2.28 (br, 2H), 3.82 (s, 2H), 3.90 (s, 2H), 4.65 (s, 2H), 7.16 (br t, 1H, J=6.0 Hz), 7.26-7.35 (m, 5H), 7.64 (td, 1H, J=7.7, 1.7 Hz), 8.54 (br d, 1H, J=4.5 Hz).

reactant | Terephthaldicarboxaldehyde | 0.304 mol, 40.75 g | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | hydrogen | [H][H] | H2
reactant | 2-(aminomethyl)pyridine | 0.272 mol, 28 mL | NCC1=NC=CC=C1 | C6H8N2
catalyst | palladium on activated carbon | 4.24 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on activated carbon | 2.60 g | [Pd] | Pd
catalyst | 2-(aminomethyl)pyridine | 0.003 mol, 3.1 mL | NCC1=NC=CC=C1 | C6H8N2
solvent | methanol | 250 mL | CO | CH4O
product | 4-[[(2-pyridinylmethyl)amino]methyl]benzyl alcohol | 67.45 g, 93% | N1=C(C=CC=C1)CNCC1=CC=C(CO)C=C1 | C14H16N2O
